US07893267B2
A solution of 2.65 mL (52.0 mmol) of bromine in 10 mL of acetic acid was added dropwise over 15 minutes to a solution of 8.89 g (52.0 mmol) of 2-amino-4-chloro-benzoic acid in 60 mL of acetic acid. The mixture was stirred at room temperature for 1 h and poured into 500 grams of ice. The solid was collected by filtration, washed with cold water and dried to produce 11.2 g (86%) of 2-amino-5-bromo-4-chloro-benzoic acid. LCMS: 251 (M+1)+.

reactant | bromine | 52.0 mmol, 2.65 mL | BrBr | Br2
reactant | 2-amino-4-chloro-benzoic acid | 52.0 mmol, 8.89 g | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
product | 2-amino-5-bromo-4-chloro-benzoic acid | 11.2 g, 86% | NC1=C(C(=O)O)C=C(C(=C1)Cl)Br | C7H5BrClNO2
